US08471005B2
7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.531 g, 2.18 mmol), 2,2-Difluorobenzo[1,3]dioxole-4-boronic acid (0.624 g, 3.09 mmol), Tetrakis(triphenylphosphine)palladium(0) (125 mg, 0.108 mmol), 2.00 M of Sodium carbonate in Water (2.70 mL), and 1,4-Dioxane (6.6 mL) were combined in a vial, degassed (freeze-pump-thaw) and was heated under an atmosphere of Nitrogen at 80° C. overnight. Conversion was ˜75%. Further heating for a second night lead to little additional product relative to bromide. The mixture was diluted with water (20 mL) then extracted with EtOAc (3×30 mL). The org. was washed with brine, dried, filtered through 7 mL silica gel, washing with EtOAc, then conc. in vacuo onto 7 g silica gel. Purification on an ISCO (80 g, 0-10% EtOAc:Hex) afforded first an impurity, then the product 7-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.440 g; Yield=63.0%). LCMS (HPLC): 1.46 min, 322 (M+H); 1H-NMR (DMSO-d6): 9.12 (s, 1H), 8.16 (d, 1H, J=8.1 Hz), 7.48 (d, 1H, J=7.9 Hz), 7.40 (m, 1H), 7.33 (d, 1H, J=4.8 Hz), 7.16 (d, 1H, J=4.8 Hz), 2.55 (s, 3H).

reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 2.18 mmol, 0.531 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
reactant | 2,2-Difluorobenzo[1,3]dioxole-4-boronic acid | 3.09 mmol, 0.624 g | FC1(OC2=C(O1)C=CC=C2B(O)O)F | C7H5BF2O4
reactant | Sodium carbonate | 2.00 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-Dioxane | 6.6 mL | O1CCOCC1 | C4H8O2
solvent | Water | 2.70 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.108 mmol, 125 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(2,2-Difluoro-benzo[1,3]dioxol-4-yl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.440 g, Yield=63.0% | FC1(OC2=C(O1)C=CC=C2C2=CC=C1C=NC(=NN12)SC)F | C14H9F2N3O2S
